US08222416B2
To a solution of 2-cyclobutyl-1-(4-methanesulfinyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol (94.2 mg, 0.266 mmol) in methanol (10 mL) at 0° C. was added a solution of potassium permanganate (42.0 mg, 0.266 mmol) in water (5 mL) dropwise. The mixture was stirred for 2 h at 0° C., extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, filtered through a short silical gel pad (QingDao silica gel, 200-300 mesh), and concentrated in vacuo. The residue was purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-cyclobutyl-1-(4-methanesulfonyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol (32.2 mg, 33%): LC/MS m/e calcd for C20H22N2O3S [M+H]+ 371.47, observed 371.2; 1H NMR (400 MHz, CD3OD) δ ppm 1.49 (m, 1H), 1.57-1.83 (m, 4H), 1.95 (m, 1H), 2.52 (m, 3H), 3.10 (s, 3H), 6.53 (s, 1H), 7.07 (dd, J=4.9, 7.8 Hz, 1H), 7.79 (d, J=8.7 Hz, 2H), 7.90 (d, J=8.7 Hz, 2H), 7.95 (dd, J=1.5 Hz, J=7.8 Hz, 1H), 7.95 (dd, J=1.5 Hz, J=4.9 Hz, 1H).

reactant | 2-cyclobutyl-1-(4-methanesulfinyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol | 0.266 mmol, 94.2 mg | C1(CCC1)CC(O)(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)S(=O)C | C20H22N2O2S
reactant | potassium permanganate | 0.266 mmol, 42.0 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-cyclobutyl-1-(4-methanesulfonyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol | 32.2 mg, 33% | C1(CCC1)CC(O)(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)S(=O)(=O)C | C20H22N2O3S
